US06783557B1
d) Preparation of 1-(2-hydroxyethyl)-3-[3-(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-ylamino)propyl]-3H-imidazol-1-ium chloride
3 g of (3-imidazol-1-ylpropyl)(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-yl)amine and 10 g of 2-chloroethanol were introduced into a 25 cc three-necked round-bottomed flask equipped with a magnetic stirrer, a thermometer and a condenser. The medium was refluxed for 6 hours. The reaction medium was poured into 160 cc of ethyl acetate and refluxed. The precipitate was filtered off at room temperature. This gave 3.8 g of 1-(2-hydroxyethyl)-3-[3-(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-ylamino)propyl]-3H-imidazol-1-ium chloride (beige powder) after drying under vacuum over phosphoric anhydride.

reactant | (3-imidazol-1-ylpropyl)(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-yl)amine | 3 g | N1(C=NC=C1)CCCNC1=CC(=NC=2N1N=CC2[N+](=O)[O-])C | C13H15N7O2
reactant | 2-chloroethanol | 10 g | ClCCO | C2H5ClO
solvent | ethyl acetate | 160 cc | C(C)(=O)OCC | C4H8O2
product | 1-(2-hydroxyethyl)-3-[3-(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-ylamino)propyl]-3H-imidazol-1-ium chloride | [Cl-].OCC[N+]1=CN(C=C1)CCCNC1=CC(=NC=2N1N=CC2[N+](=O)[O-])C | InChI=1S/C15H20N7O3.ClH/c1-12-9-14(21-15(18-12)13(10-17-21)22(24)25)16-3-2-4-19-5-6-20(11-19)7-8-23;/h5-6,9-11,16,23H,2-4,7-8H2,1H3;1H/q+1;/p-1
